US05223536
A stirred solution of 34 ml (0.10 mole) of methylmagnesium bromide (3.0 M in diethyl ether) in 100 ml of tetrahydrofuran was cooled to 0° C., and 22.0 grams (0.10 mole) of 4-fluoro-3-phenoxybenzaldehyde was slowly added during a 30 minute period. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature at which it was stirred for two hours. At the end of this time the reaction was quenched with aqueous 10% hydrochloric acid, and the reaction mixture was extracted with two 100 ml portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 24.0 grams of 1-(4-fluoro-3-phenoxyphenyl)ethanol. The nmr spectrum was consistent with the proposed structure.

reactant | methylmagnesium bromide | 0.10 mole, 3.0 M, 34 ml | C[Mg]Br
reactant | 4-fluoro-3-phenoxybenzaldehyde | 0.10 mole, 22.0 grams | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(4-fluoro-3-phenoxyphenyl)ethanol | 24.0 grams | FC1=C(C=C(C=C1)C(C)O)OC1=CC=CC=C1 | C14H13FO2
